US08044043B2
(E)-6-Phenyl-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridine.
The mixture of phenylboronic acid (0.060 g, 0.495 mmol), sodium carbonate (0.382 mL, 0.764 mmol), (E)-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridin-6-yl trifluoromethanesulfonate (0.1922 g, 0.413 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.024 g, 0.021 mmol) in Toluene (5 mL) and MeOH (1 mL) was heat to 80° C. under N2 for 3 hours. LCMS showed no more starting material. The reaction was diluted with ethyl acetate and washed with water one time. The ethyl acetate layer was separated, dried (Na2SO4), filtered and concentrated to give the crude product. The crude was used as it is. MS(ESI)[M+H+]=394.32.

reactant | phenylboronic acid | 0.495 mmol, 0.060 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | sodium carbonate | 0.764 mmol, 0.382 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | (E)-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridin-6-yl trifluoromethanesulfonate | 0.413 mmol, 0.1922 g | FC(S(=O)(=O)O/C/1=C/C=2C(=NC=CC2)C(CC1)O[Si](C(C)C)(C(C)C)C(C)C)(F)F | C20H30F3NO4SSi
solvent | Toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 1 mL | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.021 mmol, 0.024 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)-6-Phenyl-9-(triisopropylsilyloxy)-8,9-dihydro-7H-cyclohepta[b]pyridine | C1(=CC=CC=C1)/C/1=C/C=2C(=NC=CC2)C(CC1)O[Si](C(C)C)(C(C)C)C(C)C | C25H35NOSi
